data/preprocessed/USPTO_ozonolysis.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)C1(C(=O)NCC2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)CC[C:1](=[CH2:2])C1.ClCCl.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",37,4,reaction_44,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)C1(C(=O)NCC2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)CC[C:1]2(C1)[CH2:2][O:3][O:4][O:5]2.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",37,3,reaction_44,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)C1(C(=O)NCC2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)CC[C:1](=[O+:2][O-:3])C1.ClCCl.[CH2:4]=[O:5]|(3, 4);((4, 5), 1);((1, 2), 2)",37,2,reaction_44,USPTO_ozonolysis,train
"C1=CC=C([P:3](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)C1(C(=O)NCC2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)CCC2(C1)OC[O:1][O:2]2.ClCCl|(3, 1);((1, 2), 2)",37,1,reaction_44,USPTO_ozonolysis,train
"CC(C)C1(C(=O)NCC2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)CC[C:1]([O-:2])([O:3][CH2:4][O:5][P+:6](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1.ClCCl|(2, 1);((1, 3), 4);((4, 5), 6)",37,0,reaction_44,USPTO_ozonolysis,train
"CCCOC(=O)C1C[C:1](=[CH2:2])C1.CO.CSC.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",32,4,reaction_46,USPTO_ozonolysis,train
"CCCOC(=O)C1C[C:1]2(C1)[CH2:2][O:3][O:4][O:5]2.CO.CSC|(5, 1);((1, 2), 3);((3, 4), 4)",32,3,reaction_46,USPTO_ozonolysis,train
"CCCOC(=O)C1C[C:3](=[O+:4][O-:5])C1.CO.CSC.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",32,2,reaction_46,USPTO_ozonolysis,train
"CCCOC(=O)C1CC2(C1)OC[O:2][O:3]2.CO.C[S:1]C|(1, 2);((2, 3), 3)",32,1,reaction_46,USPTO_ozonolysis,train
"CCCOC(=O)C1C[C:1]([O-:2])([O:3][CH2:4][O:5][S+:6](C)C)C1.CO|(2, 1);((1, 3), 4);((4, 5), 6)",32,0,reaction_46,USPTO_ozonolysis,train
"CO.CSC.ClCCl.OCC1C[C:2](=[CH2:1])C1CO.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",5,4,reaction_39,USPTO_ozonolysis,train
"CO.CSC.ClCCl.OCC1C[C:1]2(C1CO)[CH2:2][O:3][O:4][O:5]2|(5, 1);((1, 2), 3);((3, 4), 4)",5,3,reaction_39,USPTO_ozonolysis,train
"CO.CSC.ClCCl.OCC1C[C:5](=[O+:4][O-:3])C1CO.[CH2:1]=[O:2]|(3, 1);((1, 2), 5);((5, 4), 4)",5,2,reaction_39,USPTO_ozonolysis,train
"CO.C[S:3]C.ClCCl.OCC1CC2(OC[O:1][O:2]2)C1CO|(3, 1);((1, 2), 2)",5,1,reaction_39,USPTO_ozonolysis,train
"CO.C[S+:1](C)[O:2][CH2:3][O:4][C:5]1([O-:6])CC(CO)C1CO.ClCCl|(6, 5);((5, 4), 3);((3, 2), 1)",5,0,reaction_39,USPTO_ozonolysis,train
"CC(C)(C)OC(=O)N(C[CH:1]=[CH2:2])C1CCN(C(=O)OCC2=CC=CC=C2)CC1.CO.CSC.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",34,4,reaction_17,USPTO_ozonolysis,train
"CC(C)(C)OC(=O)N(C[CH:1]1[CH2:2][O:3][O:4][O:5]1)C1CCN(C(=O)OCC2=CC=CC=C2)CC1.CO.CSC.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",34,3,reaction_17,USPTO_ozonolysis,train
"CC(C)(C)OC(=O)N(C[CH:3]=[O+:4][O-:5])C1CCN(C(=O)OCC2=CC=CC=C2)CC1.CO.CSC.ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",34,2,reaction_17,USPTO_ozonolysis,train
"CC(C)(C)OC(=O)N(CC1OC[O:2][O:3]1)C1CCN(C(=O)OCC2=CC=CC=C2)CC1.CO.C[S:1]C.ClCCl|(1, 3);((3, 2), 2)",34,1,reaction_17,USPTO_ozonolysis,train
"CC(C)(C)OC(=O)N(C[CH:6]([O:1][CH2:2][O-:3])[O:5][S+:4](C)C)C1CCN(C(=O)OCC2=CC=CC=C2)CC1.CO.ClCCl|(3, 2);((2, 1), 6);((6, 5), 4)",34,0,reaction_17,USPTO_ozonolysis,train
